US04154746
In a round-bottomed flask fitted with thermometer, reflux condenser and stirrer is placed a mixture of 25 ml. glacial acetic acid and 50 ml methanol and in it is dissolved 2.38 g (0.1 mol) 1,4-diaminoanthraquinone. There is then added 4.68 g (0.2 mol) p-octyloxybenzaldehyde and the mixture is heated at 90° for one hour. The reaction mixture is cooled to about 20°-25° and poured into ice water. The precipitated product is collected and recrystallized from ethylene glycol monomethyl ether or 1:1 methanol water as small purple needles. The crystallization is repeated twice more to obtain 1,4-bis(p-octyloxybenzylidene amino)anthraquinone m.b. 280° (dec) having absorption spectra in visual and infra red ranges as shown in FIGS. 9, 10 and 11 and of sufficient purity for use in guest-host combinations. Analysis: Calculated for C44H54N2O4 ; 78.3%C, 8.06%H, 4.15%N: found 77.61%C, 7.46%H, 4.18%N.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1,4-diaminoanthraquinone | 0.1 mol, 2.38 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | p-octyloxybenzaldehyde | 0.2 mol, 4.68 g | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
solvent | methanol | 50 ml | CO | CH4O
product | 1,4-bis(p-octyloxybenzylidene amino)anthraquinone | C(CCCCCCC)OC1=CC=C(C=NC2=CC=C(C=3C(C4=CC=CC=C4C(C23)=O)=O)N=CC2=CC=C(C=C2)OCCCCCCCC)C=C1 | C44H50N2O4
